US04971970
1-Cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (8.0 g) is added to methanol (450 ml), and thereto is added gradually sodium borohydride (3.4 g) with stirring under ice cooling. The mixture is stirred at room temperature for one hour. After the reaction is finished, the reaction mixture is adjusted to about pH 1 with conc. hydrochloric acid and then refluxed for 30 minutes, and thereafter methanol is distilled off under reduced pressure. To the resulting residue is added water, and the mixture is made weakly alkaline with saturated aqueous sodium hydrogen carbonate solution and extracted with chloroform. The chloroform layer is dried over sodium sulfate, and chloroform is distilled off. The resulting residue is purified with silica gel column chromatography (eluent, chloroform → chloroform : methanol =50 : 1) ane then recrystallized from diethyl ether to give 1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-5-methyl-4-oxo-1,2,3,4-tetrahydroquinoline (6.3 g) as yellow prisms, m.p. 98°-100° C.

reactant | 1-Cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)5-methyl-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 8.0 g | C1(CC1)N1C=C(C(C2=C(C(=C(C=C12)N1CC(NCC1)C)F)C)=O)C(=O)O | C19H22FN3O3
reactant | sodium borohydride | 3.4 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
product | 1-cyclopropyl-6-fluoro-7-(3-methyl-1-piperazinyl)-5-methyl-4-oxo-1,2,3,4-tetrahydroquinoline | 6.3 g | C1(CC1)N1CCC(C2=C(C(=C(C=C12)N1CC(NCC1)C)F)C)=O | C18H24FN3O
